US06346527B1
The mixture of ethyl 2,3-dihydro-7-amino-1-benzoxepin-4-carboxylate (2.0 g), dimethyl disulfide (2.3 ml) and t-butylnitrile (1.2 ml) in acetonitrile (4 ml) was stirred at 50° C. for 2.5 hours. The mixture was poured into a mixture of ethyl acetate and water. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel using a mixture of hexane and toluene (1:1) as an eluent. The eluted fractions containing the desired product were collected and evaporated in vacuo to give ethyl 2,3-dihydro-7-methylthio-1-benzoxepin-4-carboxylate (1.24 g).

reactant | ethyl 2,3-dihydro-7-amino-1-benzoxepin-4-carboxylate | 2.0 g | NC=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C13H15NO3
reactant | dimethyl disulfide | 2.3 ml | CSSC | C2H6S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | ethyl 2,3-dihydro-7-methylthio-1-benzoxepin-4-carboxylate | 1.24 g | CSC=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C14H16O3S
